US06337326B1
8-{4-[4-(6-Fluoro-1H-indol-3-yl)-cyclohexyl]-[1,4]diazepan-1-yl}-quinoline
The title compound was prepared according to Example 3, Step 4 except that 8-[1,4]diazepan-1-yl-quinoline was used instead of 1-(2-methoxy-phenyl)-[1,4]diazepane and 4-(6-fluoro-1H-indol-3-yl)-cyclohexanone was used in place of 4-(5-fluoro-1H-3-indolyl)-cyclohexanone. Yield: 89%; MS (ES) m/z (relative intensity): 443 (M++H, 100).

reactant | 8-[1,4]diazepan-1-yl-quinoline | N1(CCNCCC1)C=1C=CC=C2C=CC=NC12 | C14H17N3
reactant | 4-(6-fluoro-1H-indol-3-yl)-cyclohexanone | FC1=CC=C2C(=CNC2=C1)C1CCC(CC1)=O | C14H14FNO
product | 8-{4-[4-(6-Fluoro-1H-indol-3-yl)-cyclohexyl]-[1,4]diazepan-1-yl}-quinoline | Yield: 89% | FC1=CC=C2C(=CNC2=C1)C1CCC(CC1)N1CCN(CCC1)C=1C=CC=C2C=CC=NC12 | C28H31FN4
